US08426411B2
To a suspension of (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine hydrochloride (0.05 g, 0.11 mmol, prepared using E from Preparation #B.1 and HCl) and TEA (0.03 mL, 0.21 mmol) in DCM (5 mL) at about 0° C. was added 3-chloropropane-1-sulfonyl chloride (0.02 g, 0.11 mmol) dropwise. The reaction mixture was stirred at about 0° C. for about 1.5 h. The reaction mixture was diluted with 5% aqueous citric acid (10 mL), and the layers were separated. The organic layer was washed with saturated aqueous NaHCO3 (10 mL), water (10 mL), brine (10 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give 3-chloro-N-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)propane-1-sulfonamide (0.052 g, 91%) as a brown residue: LC/MS (Table 1, Method a) Rt=2.18 min; MS m/z: 537 (M+H)+.

reactant | (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine hydrochloride | 0.11 mmol, 0.05 g | Cl.S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N
reactant | 3-chloropropane-1-sulfonyl chloride | 0.11 mmol, 0.02 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-chloro-N-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)propane-1-sulfonamide | 0.052 g, 91% | ClCCCS(=O)(=O)N[C@@H]1C[C@@H](CC1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C22H25ClN6O4S2
